US07795262B2
Step 1. Preparation of tert-butyl 1,4,6,7-tetrahydro-5H-pyrazolo[4,3-c]pyridine-5-carboxylate
To a solution of tert-butyl-3-[(dimethylamino)methylene]-4-oxopiperidine-1-carboxylate (63.6 g, 250 mmol) in EtOH (200 mL) is added hydrazine (9.6 mL, 305 mmol) and the mixture is heated at reflux for 2 hr. Solvent is evaporated in vacuo and residue is purified by flash column with 5% MeOH in DCM to give the title compound as a white solid. MS (M+1): 224.1.

reactant | tert-butyl-3-[(dimethylamino)methylene]-4-oxopiperidine-1-carboxylate | 250 mmol, 63.6 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)=CN(C)C | C13H22N2O3
reactant | hydrazine | 305 mmol, 9.6 mL | NN | H4N2
solvent | EtOH | 200 mL | CCO | C2H6O
product | tert-butyl 1,4,6,7-tetrahydro-5H-pyrazolo[4,3-c]pyridine-5-carboxylate | N1N=CC=2CN(CCC21)C(=O)OC(C)(C)C | C11H17N3O2
